US08487094B2
To a solution of 3-hydroxy-3-phenylbutyl 4-methylbenzenesulfonate (1 g, 3.12 mmol) and DBU (1.4 g, 9.26 mmol) in CH2Cl2 (15 mL) was added a solution of 3-methylphenyl isocyanate (623 mg, 4.68 mmol) in CH2Cl2 (5 mL) at 0° C. over 0.5 h. The mixture was stirred at rt overnight. The mixture was concentrated to give the crude product, which was purified by column chromatography and then by preparative HPLC to afford 6-methyl-6-phenyl-3-m-tolyl-1,3-oxazinan-2-one. LC-MS Method 2, tR=2.706 min, m/z=282. 1H NMR (CDCl3) 1.75 (s, 3H), 2.30 (s, 3H), 2.35-2.50 (m, 2H), 3.30 (m, 1H), 3.50 (m, 1H), 6.95 (m, 2H), 7.05 (m, 1H), 7.20-7.30 (m, 1H), 7.35 (m, 1H), 7.42-7.50 (m, 4H).

reactant | 3-hydroxy-3-phenylbutyl 4-methylbenzenesulfonate | 3.12 mmol, 1 g | CC1=CC=C(C=C1)S(=O)(=O)OCCC(C)(C1=CC=CC=C1)O | C17H20O4S
reactant | DBU | 9.26 mmol, 1.4 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 3-methylphenyl isocyanate | 4.68 mmol, 623 mg | CC=1C=C(C=CC1)N=C=O | C8H7NO
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 6-methyl-6-phenyl-3-m-tolyl-1,3-oxazinan-2-one | CC1(CCN(C(O1)=O)C=1C=C(C=CC1)C)C1=CC=CC=C1 | C18H19NO2
